US04504368
Preparation of 2-nitro[2-(2-chloroethoxy)ethoxy]benzene:
This compound was prepared in a manner analogous to the preparation of 5-methoxy-2-nitro-[2-(2-chloroethoxy)ethoxy]benzene for crown ether XIX, except that the sodium salt of o-nitrophenol was used instead of the sodium salt of 5-methoxy-2-nitrophenol.

reactant | 5-methoxy-2-nitro-[2-(2-chloroethoxy)ethoxy]benzene | COC=1C=CC(=C(C1)OCCOCCCl)[N+](=O)[O-] | C11H14ClNO5
reactant | sodium | [Na] | Na
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 5-methoxy-2-nitrophenol | COC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
product | 2-nitro[2-(2-chloroethoxy)ethoxy]benzene | [N+](=O)([O-])C1=C(C=CC=C1)OCCOCCCl | C10H12ClNO4
